* Subcircuit fulladder
.subckt fulladder net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ 
* /home/drako/applications/esim-2.1/library/subcircuitlibrary/fulladder/fulladder.cir
.include xor_gate.sub
.include halfadder.sub
x3 net-_x2-pad4_ net-_x1-pad4_ net-_u1-pad5_ xor_gate
x1 net-_u1-pad2_ net-_u1-pad3_ net-_x1-pad3_ net-_x1-pad4_ halfadder
x2 net-_u1-pad1_ net-_x1-pad3_ net-_u1-pad4_ net-_x2-pad4_ halfadder
* Control Statements

.ends fulladder